US03976639
Preparation of trans-β-dimethylamino-3 -methyl-2-nitrostyrene
A 500 -ml. three-necked flask fitted with a thermometer, a 15-cm. Vigreux column connected to a descending condenser and receiver with a nitrogen inlet was charged with 30.23 g. of 2-nitro-m-xylene, 64.77 g. of N,N-domethylformamide diethyl acetal, and 200 ml. of N,N-dimethylformamide. The reaction vessel was then immersed in an oil bath, preheated to 165°, for 46 hours. The pot temperature was maintained above 140° by continuous distillation of the formed ethanol.

reactant | 2-nitro-m-xylene | [N+](=O)([O-])C1=C(C=CC=C1C)C | C8H9NO2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | trans-β-dimethylamino-3 -methyl-2-nitrostyrene | CN(\C=C\C1=C(C(=CC=C1)C)[N+](=O)[O-])C | C11H14N2O2
